data/specific_train_final.csv
"CCCC12C=CC(C(C1O)OO2)O[O:20].[N:10]=O>>CCCC12C=CC(C(C1O)OO2)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1C(O1)(C)/C=C\C(=O)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC(=O)/C=C\C1(C(O1)[C:21]=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21](C(C)O)OC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC([CH:21]OC)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC1=CC=C[C:10](C1O)C.[O:20][O]>>CCC1=CC=C[C:10](C1O)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C=CCO[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>C(C=CCO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(CO[O:20])O[N+](=O)[O-].[N:10]=O>>CC(C)(CO[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[CH:10]Cl.[O:20][O]>>C[CH:10]([O:20][O])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(Cl)Cl)(OO[O:20][N+:21](=O)[O-])Cl>>C(C(Cl)Cl)(OO[O:20])Cl.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCCCO[O:10]>>[H:20][O:10]OCCCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C=O)([CH:10][O:20][OH:21])OO>>CC(C=O)([CH:10]=[O:20])OO.[OH:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].CC(C)C(=O)O[O:10]>>[H:20][O:10]OC(=O)C(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=O)OC[O:20][O:21][O].[N+](=O)[O-]>>CC(=O)OC[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:20](CO)([CH:10](COO)O)[O:21]>>OC[C:20](C)=[O:21].[CH:10](COO)O 21-20,21;10,20-20,21;10,20-10",Room Temperature,Propagation,retroaddition
"C[CH:21]=[CH2:20].[N+](=O)([O-])[O:10]>>C[CH:21][CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCCC(CO)O[O:20].[N+](=O)([O-])[O:10]>>CCCCC(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)CCO[O:20].[N+](=O)([O-])[O:10]>>CC(C)(C)CCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:6][O:5][O:4][CH:3]([C:2](=[CH:8][CH2:9][O:10][OH:11])[CH3:1])[O:7]>>[H:6][O:5][O:4].[CH3:1][C:2](=[CH:8][CH2:9][O:10][OH:11])[CH:3]=[O:7] 7-7,3; 3,4-7,3; 3,4-4",Room Temperature,Propagation,retroaddition
"CC(C[O:20][O:21]N=O)OC(=O)C>>CC(C[O:20])OC(=O)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C=O)O)[O:20][O:21][O]>>CC(C(C=O)O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:1][CH2:2][CH:3]([CH:4]([CH3:5])[CH3:6])[O:7].[N:8](=[O:9])[O:10]>>[CH3:1][CH2:2][CH:3]([CH:4]([CH3:5])[CH3:6])[O:7].[N+:8](=[O:9])[O-:10] 8-10,Room Temperature,Propagation,ha resonance
"CCCC(C)(C)O[O:20].[N+](=O)([O-])[O:10]>>CCCC(C)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:21]([CH:22]=[CH2:23])([CH2:20]O[H])[O:30][O:31].[N:40]=[O:41]>>C[C:21]([CH:22]=[CH2:23])([CH2:20]O[H])[O:30][O:31][N:40]=[O:41] 31-31,40;40-31,40",Room Temperature,Termination,recombine
"C[CH:10]CC(=O)C.[O:20][O]>>C[CH:10](CC(=O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCCCC(C)(C)O[O:10]>>[H:20][O:10]OC(C)(C)CCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH3:7][C:6]1=[CH:8][CH:9]=[CH:10][C:3](=[C:4]1[CH3:5])[CH2:2][O:1].[N:12](=[O:13])[O:11]>>[CH3:7][C:6]1=[CH:8][CH:9]=[CH:10][C:3](=[C:4]1[CH3:5])[CH2:2][O:1].[N+:12](=[O:13])[O-:11] 12-11,Room Temperature,Propagation,ha resonance
"[H:20][CH:21](C(C)O)OC.[OH:10]>>[H:20][OH:10].CC([CH:21]OC)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(CC2C1CCC(C(CCC2=C)O)(C)[O:20])C.[N+:10](=O)[O-]>>CC1(CC2C1CCC(C(CCC2=C)O)(C)[O:20][N+:10](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCOC(CO)O[O:20].[N:10]=O>>CCOC(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O[O:20])(Cl)Cl)O.[N:10]=O>>C(C(O[O:20][N:10]=O)(Cl)Cl)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
CC1=C(C=CC=C1)C(C)[O].[N:10](=O)[O:20]>>CC1=C(C=CC=C1)C(C)[O].[N+:10](=O)[O-:20] 10-20,Room Temperature,Propagation,ha resonance
"CC(C)(C(CO[O:20])O[N+](=O)[O-])O.[N:10]=O>>CC(C)(C(CO[O:20][N:10]=O)O[N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC[C:10](C)C.[O:20][O]>>CCCC[C:10](C)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCCC(=O)O[O:10]>>[H:20][O:10]OC(=O)CCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
